US08633212B2
Step 1. 2-(5-bromo-2-fluorophenyl)-2-(trimethylsilyloxy)acetonitrile
To a solution of 5-bromo-2-fluorobenzaldehyde (2.1385 g, 10.53 mmol) and DMAP (0.0146 g, 0.12 mmol, 0.011 equiv) in CH3CN (20 mL) was added TMSCN (1.4086 g, 14.20 mmol, 1.35 equiv) dropwise via a syringe under nitrogen at room temperature. After 4 h, the solvent was removed under reduced pressure. The crude product was directly used in the next step without further purification.

reactant | 5-bromo-2-fluorobenzaldehyde | 10.53 mmol, 2.1385 g | BrC=1C=CC(=C(C=O)C1)F | C7H4BrFO
reactant | TMSCN | 14.20 mmol, 1.4086 g, 1.35 equiv | [Si](C)(C)(C)C#N | C4H9NSi
reactant | CH3CN | 20 mL | CC#N | C2H3N
catalyst | DMAP | 0.12 mmol, 0.0146 g, 0.011 equiv | CN(C)C=1C=CN=CC1 | C7H10N2
product | 2-(5-bromo-2-fluorophenyl)-2-(trimethylsilyloxy)acetonitrile | BrC=1C=CC(=C(C1)C(C#N)O[Si](C)(C)C)F | C11H13BrFNOSi
